US06593330B2
*Prepared from 7-methoxy-2-naphthol and ethylene carbonat according to the procedure of Example 134, step 1, in WO 00/76984. The reaction mixture was refluxed for 2 h. Pure 2-(7-methoxy-naphthalen-2-yloxy)ethanol was obtained after column chromatography on silica gel using n-hexane/ethyl acetate (6:4) as eluent.

reactant | 7-methoxy-2-naphthol | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | ethylene carbonat | C1(OCCO1)=O | C3H4O3
product | 2-(7-methoxy-naphthalen-2-yloxy)ethanol | COC1=CC=C2C=CC(=CC2=C1)OCCO | C13H14O3
